US05171880
Ten millimoles of diphenylmethane was heated at 400° C. for 1 hour with 1.35 ml of water saturated with sulfur dioxide in the microreactor described in Comparative Examples 1 to 10. After cooling, the product was entracted with ether. The ether layer was dried (Na2So4) and concentrated to yield 95% of benzophenone and 5% of diphenylamine. Colloidal sulfur was observed in the aqueous layer.

reactant | diphenylmethane | Ten millimoles | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | water | 1.35 ml | O | H2O
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | ether | CCOCC | C4H10O
product | benzophenone | 95% | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
